US07842688B2
a) Benzyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-(3-methoxypropoxy)-4-pyrrolidin-1-ylbenzyloxy]piperidine-1-carboxylate
The mixture of 0.019 g of 2-(di-t-butylphosphino)biphenyl, 0.005 g of palladium(II) acetate and 0.134 g of sodium tert-butoxide is admixed under argon with the solution of 0.831 g of benzyl 3-[4-bromo-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.100 ml of pyrrolidine in 7.0 ml of toluene. The reaction mixture is stirred at 90° C. over 16 hours, subsequently cooled, poured onto water (40 ml) and extracted with tert-butyl methyl ether (2×40 ml). The organic phases are washed with brine (40 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a white foam from the residue by means of flash chromatography (SiO2 60F). Rf=0.22 (1:1 EtOAc-heptane); Rt=5.40.

reactant | 2-(di-t-butylphosphino)biphenyl | 0.019 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 0.134 g | CC(C)([O-])C.[Na+]
reactant | benzyl 3-[4-bromo-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.831 g | BrC1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OCC2=CC=CC=C2)C=C1)OCCCOC | C41H48BrNO8
reactant | pyrrolidine | 0.100 ml | N1CCCC1 | C4H9N
solvent | toluene | 7.0 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.005 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Benzyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-(3-methoxypropoxy)-4-pyrrolidin-1-ylbenzyloxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)OCC2=CC(=C(C=C2)N2CCCC2)OCCCOC)C=CC=C1 | C45H56N2O8
